US06087399
24 g (314 mmol) of ammonium acetate and 13.8 g (220 mmol) of sodium cyanoborohydride were added to a solution of 6.0 g (31 mmol) of 7-nitro-3,4-dihydro-2H-naphthalen-1-one in 150 ml of methanol, and the reaction mixture was heated at 60° C. for 3 h. After acidifying to pH<2 with dil. hydrochloric acid, the reaction mixture was concentrated in vacuo and the residue was stirred with water and EA. A precipitate which appeared here was filtered off with suction, washed with EA and then combined with the acidic aqueous phase. After rendering the mixture alkaline, it was extracted with EA and the organic phase was dried with magnesium sulfate and concentrated in vacuo. 3.6 g of 7-nitro-1,2,3,4-tetrahydro-1-naphthylamine were obtained.

reactant | ammonium acetate | 314 mmol, 24 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 220 mmol, 13.8 g | C(#N)[BH3-].[Na+]
reactant | 7-nitro-3,4-dihydro-2H-naphthalen-1-one | 31 mmol, 6.0 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 7-nitro-1,2,3,4-tetrahydro-1-naphthylamine | 3.6 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)N | C10H12N2O2
